US06388084B1
To a suspension of 4-(1,4-dimethyl-2-oxo-3-pyridinyl)-L-phenylalanine methyl ester hydrochloride salt (68 mg, 0.2 mmol), 2-chloro-6-methylbenzoic acid (45 mg, 0.25 mmol) and HBTU (95 mg, 0.25 mmol) in DMF (1.5 mL) was added DIEA (174 μL, 1.0 mmol) at room temperature. The resulting solution was stirred for 72 h, the mixture was poured into water (25 mL) and was extracted with ethyl acetate (2×15 mL). The combined ethyl acetate extracts were washed successively with 0.5 N HCl (25 mL), saturated NaHCO3 solution (25 mL), brine solution (25 mL) and were dried over anhydrous magnesium sulfate. Filtration of the drying agent and concentration of the solvent gave the crude product, which was purified by silica gel chromatography using a Biotage (40 s) column to afford 24 mg (27% yield) of N-[(2-chloro-6-methylphenyl)carbonyl]-4-(1,4-dimethyl-2-oxo-3-pyridinyl)-L-phenylalanine methyl ester as an amorphous white solid. ES-HRMS m/e calcd for C25H25ClN2O4 (M+Na) 475.1395, found 475.1400.

reactant | 4-(1,4-dimethyl-2-oxo-3-pyridinyl)-L-phenylalanine methyl ester hydrochloride salt | 0.2 mmol, 68 mg | Cl.COC([C@@H](N)CC1=CC=C(C=C1)C=1C(N(C=CC1C)C)=O)=O
reactant | 2-chloro-6-methylbenzoic acid | 0.25 mmol, 45 mg | ClC1=C(C(=O)O)C(=CC=C1)C | C8H7ClO2
reactant | HBTU | 0.25 mmol, 95 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 1.0 mmol, 174 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
solvent | water | 25 mL | O | H2O
product | N-[(2-chloro-6-methylphenyl)carbonyl]-4-(1,4-dimethyl-2-oxo-3-pyridinyl)-L-phenylalanine methyl ester | 24 mg, 27% yield | COC([C@@H](NC(=O)C1=C(C=CC=C1C)Cl)CC1=CC=C(C=C1)C=1C(N(C=CC1C)C)=O)=O | C25H25ClN2O4
